US04929269
(ii) 5-t-butyl-2-methoxy-3-nitrophenyl N-t-butyl sulfonamide
t-Butylamine (9 ml) was added to a cooled solution of 5-t-butyl-2-methoxy-3-nitrophenyl sulfonyl chloride (7.4 g) in acetonitrile (40 ml). The mixture was stirred at ambient temperature for 1 hour and then the solvent was removed under vacuum. The residue was shaken with ethyl acetate (100 ml) and 4% citric acid (100 ml). The organic phase was separated and dried over sodium sulphate. Evaporation of solvent gave a solid residue which was recrystallized from aqueous ethanol to give the title compound (6.0 g);

reactant | t-Butylamine | 9 ml | C(C)(C)(C)N | C4H11N
reactant | 5-t-butyl-2-methoxy-3-nitrophenyl sulfonyl chloride | 7.4 g | C(C)(C)(C)C=1C=C(C(=C(C1)S(=O)(=O)Cl)OC)[N+](=O)[O-] | C11H14ClNO5S
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 5-t-butyl-2-methoxy-3-nitrophenyl N-t-butyl sulfonamide | 6.0 g | C(C)(C)(C)C=1C=C(C(=C(C1)S(=O)(=O)NC(C)(C)C)OC)[N+](=O)[O-] | C15H24N2O5S
